2199-10-02 08:48:00 Physician Attending Progress Note
Chief Complaint: Hypotension, acute renal failure, acidosis,
   thrombocytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient continues to complain about cramping abdominal pain. No
   dyspnea. BP 130 systolic on levophed, vasporessin, and phenylephrine,
   which is now being weaned. Minimial urine output. Creat rising. WBC up
   markedly from presentation.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2199-10-2**] 06:41 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Norepinephrine - 0.25 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2199-10-2**] 08:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-10-2**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 109 (94 - 112) bpm
   BP: 135/76(79) {84/39(47) - 135/76(92)} mmHg
   RR: 33 (18 - 46) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 15 (13 - 15)mmHg
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                 11,219 mL
   PO:
   TF:
   IVF:
                                                                  1,869 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    860 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 10,359 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///10/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Dry oral mucosa
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present, No(t)
   Distended, Tender: Diffuse, mild, no rebound, Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   59 K/uL
   107 mg/dL
   3.1 mg/dL
   10 mEq/L
   2.7 mEq/L
   40 mg/dL
   114 mEq/L
   143 mEq/L
   28.2 %
   48.1 K/uL
        [image002.jpg]
                             [**2199-10-2**]  04:35 AM
                             [**2199-10-2**]  05:53 AM
   WBC
   49.3
   48.1
   Hct
   32.2
   28.2
   Plt
   66
   59
   Cr
   3.1
   Glucose
   107
   Other labs: PT / PTT / INR:15.2/31.2/1.3, ALT / AST:66/113, Alk Phos /
   T Bili:178/2.5, Differential-Neuts:91.0 %, Band:5.0 %, Lymph:1.0 %,
   Mono:1.0 %, Eos:0.0 %, Fibrinogen:481 mg/dL, Lactic Acid:3.7 mmol/L,
   LDH:484 IU/L, Ca++:6.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   HYPOTENSION
   ACUTE RENAL FAIULRE
   ACIDOSIS
   THROMBOCYTOPENIA
   ANEMIA
   =========================
   Patient with evidence of probable severe infection with marked
   leuckocytosis and hypotension. Acute renal failure likely due to ATN.
   CVP is 13; would continue fluids for now as we try to reduce/eliminate
   phenylephrine. Once a-line in place, monitor pulsse pressure with
   respiratory cycle to further assess intravascular volume. Patient
   getting repeat ultrasound to look for evidence of ascites and
   hydronephrosis. Smear negative for schistocytes arguing against TTP.
   With hx of low back pain, concern for a retroperitoneal process/pelvic
   sepsis. Bacterial colonic infection also a consideration. Cultures
   sent. Patient on broad spectrum antibiotics.Will probably need CT but
   would like to avoid IV contrast to minimize chances of permanent renal
   failure.
   Acidosis a mixed picture of anion and nonanion gap acidosis. Diarrhea
   and treatment with NS likely contributing to the nongap acidosis. Use
   LR or D5W with bicarb rather than normal saline for additional volume
   resuscitation. Surgery and gyn consulted. Need to be careful giving
   bicarb with hypokalemia; would not give any until K is above 3. Will
   need to give potassium with frequent checks; given oliguria, we don't
   want to overshoot potassium replacement. Renal should be consulted.
   Anemia likely related to her recent pregnancy and marrow suppression
   from acute infection. Not at transfusion threshold. Smear negative for
   evidence of intravacuilar hemolysis. No evidnce of GI bleeding at this
   time or by hx. Check stool guaiac.
   Thrombocytopenia of unclear etiology; probalby related to sepsis.
   Values rising now making ITP/TTP less likely. Continue to monitor. As
   above, no evidence of intravascular consumption.
   LFT's elevated. Ultraslund to assess for obstruction. Transaminitis
   probably related to hypotension.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill